US07585885B2
2-sec-Butylamino-6-methanesulfonyloxy-isonicotinic acid methyl ester
Add methanesulfonyl chloride (0.1 mL, 1.292 mmol) to a solution of 2-sec-butylamino-6-hydroxy-isonicotinic acid (242 mg, 1.016 mmol) and triethyl amine (0.25 mL, 1.793 mmol) in dichloromethane (15 mL) at 0° C. Stir at room temperature for 15 min, dilute with dichloromethane, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 15:85 ethyl acetate:hexanes) to give the title compound as a white solid (240 mg, 75%).

reactant | methanesulfonyl chloride | 1.292 mmol, 0.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-sec-butylamino-6-hydroxy-isonicotinic acid | 1.016 mmol, 242 mg | C(C)(CC)NC=1C=C(C(=O)O)C=C(N1)O | C10H14N2O3
reactant | triethyl amine | 1.793 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-sec-Butylamino-6-methanesulfonyloxy-isonicotinic acid methyl ester | 240 mg, 75% | COC(C1=CC(=NC(=C1)OS(=O)(=O)C)NC(C)CC)=O | C12H18N2O5S
